US07501430B2
13e: Preparation of N-{(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}-4-[6-(3-cyanophenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-amine
The 4-[6-(3-cyanophenyl)imidazo[2,1-b][1,3]thiazol-5-yl]-N-[(3R)-piperidin-3-yl]pyrimidin-2-amine hydrochloride (˜5.79 mmol) in dichloromethane (DCM) (50 mL) was cooled to 0° C. and treated with triethylamine (4.0 mL, 28.9 mmol), then 4-chlorophenylsulfonyl chloride (1.34 g, 6.37 mmol) was added. The reaction mixture was stirred at room temperature for 1 hour, diluted with dichloromethane (100 mL), washed with water (50 mL×3), dried over sodium sulfate and concentrated in vacuo to provide 3.22 g (97%) of the title compound as a yellow solid. M.p.=144-146° C.; 400 MHz 1H NMR (DMSO-d6 at 60° C.) δ: 8.65 (br. s, 1H), 8.17 (d, J=5.2 Hz, 1H), 8.01 (s, 1H), 7.94 (dd, J=0.8 and 7.6 Hz, 1H), 7.82-7.85 (m, 1H), 7.77-7.75 (m, 2H), 7.67-7.64 (m, 3H), 7.44 (d, J=4.4 Hz, 1H), 7.18 (d, J=7.2 Hz, 1H), 6.37 (d, J=4.8 Hz, 1H), 3.91 (bs, 1H), 3.72 (d, J=10.8 Hz, 1H), 3.48 (d, J=10.8 Hz, 1H), 2.48-2.45 (m, 1H), 2.32 (t, J=10 Hz, 1H), 1.89-1.82 (m, 2H), 1.60-1.56 (m, 1H), 1.41-1.36 (m, 1H). LCMS: 576 [M+H].

reactant | 4-[6-(3-cyanophenyl)imidazo[2,1-b][1,3]thiazol-5-yl]-N-[(3R)-piperidin-3-yl]pyrimidin-2-amine hydrochloride | ˜5.79 mmol | Cl.C(#N)C=1C=C(C=CC1)C=1N=C2SC=CN2C1C1=NC(=NC=C1)N[C@H]1CNCCC1
reactant | triethylamine | 28.9 mmol, 4.0 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chlorophenylsulfonyl chloride | 6.37 mmol, 1.34 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-{(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}-4-[6-(3-cyanophenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-amine | 3.22 g, 97% | ClC1=CC=C(C=C1)S(=O)(=O)N1C[C@@H](CCC1)NC1=NC=CC(=N1)C1=C(N=C2SC=CN21)C2=CC(=CC=C2)C#N | C27H22ClN7O2S2
